US05262425
Step h: [4aR,5R,6S,7R,7aS]-Octahydro-4-hydroxy-5,6,7-tris(phenylmethoxy)-2H-1-pyrindin-2-one
Dissolve [1R,2S,3R,4S,5R]-2-amino-β-hydroxy-3,4,5-tris(phenylmethoxy)cyclopentanepropanoic acid, ethyl ester (140 mg, 0.269 mmol) in methanol (15 mL) and add a catalytic amount of sodium methoxide. Heat at reflux under a nitrogen atmosphere for 90 minutes, add additional sodium methoxide and continue heating at reflux for 21/2 hours. Evaporate the solvent in vacuo and partition between ethyl ether and aqueous ammonium chloride. Separate the organic phase, wash with aqueuos sodium chloride, dry (MgSO4) and evaporate the solvent in vacuo to give the title compound as a yellow oil which solidifies on standing (122 mg).

reactant | [1R,2S,3R,4S,5R]-2-amino-β-hydroxy-3,4,5-tris(phenylmethoxy)cyclopentanepropanoic acid, ethyl ester | 0.269 mmol, 140 mg | N[C@H]1[C@@H]([C@H]([C@@H]([C@@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1)C(CC(=O)OCC)O | C31H37NO6
reactant | sodium methoxide | C[O-].[Na+]
solvent | methanol | 15 mL | CO | CH4O
product | [4aR,5R,6S,7R,7aS]-Octahydro-4-hydroxy-5,6,7-tris(phenylmethoxy)-2H-1-pyrindin-2-one | OC1CC(N[C@@H]2[C@H]([C@H]([C@@H]([C@@H]12)OCC1=CC=CC=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1)=O | C29H31NO5
